US04217453
p-Toluenesulfonic anhydride (1 mmol) and triethylamine (1.2 mmol) are added to an ice-cold solution of benzyl 6-azido-1-azabicyclo[3.2.0]-heptan-3,7-dione-2-carboxylate (1 mmol) in anhydrous methylene chloride (10 ml). After stirring in the cold for 2 hr, the solution is washed with water, pH 3 phosphate buffer, and 5% sodium bicarbonate solution, dried over magnesium sulfate, filtered, and evaporated under vacuum to give benzyl 6-azido-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | p-Toluenesulfonic anhydride | 1 mmol | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | triethylamine | 1.2 mmol | C(C)N(CC)CC | C6H15N
reactant | benzyl 6-azido-1-azabicyclo[3.2.0]-heptan-3,7-dione-2-carboxylate | 1 mmol | N(=[N+]=[N-])C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C14H12N4O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | benzyl 6-azido-3-toluenesulfonyloxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C21H18N4O6S
